US08420682B2
3 g (13.7 mmol, 1 eq.) of 4-iodoaniline are added to a solution of 1.4 ml (13.5 mmol, 1 eq.) of cyclohexanone in 20 ml of acetic acid at 0° C. The solution is stirred for a moment, and 1.8 ml (13.5 mmol, 1 eq.) of trimethylsilyl cyanide are added. The reaction medium is stirred overnight at room temperature. It is then poured gently into ice-cold ammonium hydroxide solution and extracted with dichloromethane. The organic phases are combined and washed with water. They are dried over sodium sulfate. The solvents are evaporated off and the residue is then chromatographed on silica gel. The product 1-(4-iodophenylamino)cyclohexanecarbonitrile is obtained in the form of a white solid.

reactant | 4-iodoaniline | 13.7 mmol, 3 g, 1 eq. | IC1=CC=C(N)C=C1 | C6H6IN
reactant | cyclohexanone | 13.5 mmol, 1.4 ml, 1 eq. | C1(CCCCC1)=O | C6H10O
reactant | trimethylsilyl cyanide | 13.5 mmol, 1.8 ml, 1 eq. | C[Si](C)(C)C#N | C4H9NSi
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 1-(4-iodophenylamino)cyclohexanecarbonitrile | IC1=CC=C(C=C1)NC1(CCCCC1)C#N | C13H15IN2
